US07700628B2
C. 2-[4-(N,N-Dimethylamino)-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-benzoylamino]-N-(5-chloropyridin-2-yl)benzamide
To a mixture of 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(N,N-dimethyl-amino)benzoic acid (950 mg, 2.61 mmol), pyridine (0.23 mL, 2.86 mmol), DMF (1 drop) and methylene chloride (15 mL) was added oxalyl chloride (0.24 mL, 2.73 mmol) dropwise. After 15 minutes, more pyridine (0.23 mL, 2.86 mmol) was added, followed by the N-(4-chlorophenyl)-2-aminobenzamide (645 mg, 2.61 mmol). The reaction was stirred for 1 hour, diluted with methylene chloride, washed with 50% saturated aqueous sodium bicarbonate, and dried over Na2 SO4. The organic solution was concentrated, chromatographed (2000 g silica, 5% EtOAc/CH2Cl2 to 15% EtOAc/CH2Cl2), and triturated with ether to give the desired product (1.32 g, 83%).

reactant | 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(N,N-dimethyl-amino)benzoic acid | 2.61 mmol, 950 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)O)C=CC(=C1)N(C)C | C19H28N2O5
reactant | pyridine | 2.86 mmol, 0.23 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 2.73 mmol, 0.24 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 2.86 mmol, 0.23 mL | N1=CC=CC=C1 | C5H5N
reactant | N-(4-chlorophenyl)-2-aminobenzamide | 2.61 mmol, 645 mg | ClC1=CC=C(C=C1)NC(C1=C(C=CC=C1)N)=O | C13H11ClN2O
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(N,N-Dimethylamino)-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 1.32 g, 83% | CN(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C31H36ClN5O5
